US04749817
This example shows the utility of sulfided noble metals as a dehalogenation catalyst for substituted chlorobenzenes. The catalyst used was 0.5% palladium on 1/8" alumina. 2,4-Dichlorotoluene was used as the feed and the feed rate was maintained at about 1.25 g/min. The dehalogenation reaction catalysed by non-sulfided palladium at a temperature of 300° C. was found to be very vigorous. Up to 81% toluene was formed during such dehalogenation, yielding a mole ratio of toluene-chlorotoluene of 4.24. When the dehalogenation was catalysed by a sulfided palladium, the reaction rate was reduced considerably and the selectivity to chlorotoluene was improved. Only 41% toluene was found in the dehalogenated product which corresponded to a toluene/chlorotoluene mole ratio of 1.19. Thus sulfided palladium was found to be effective in improving selectivity to substituted chlorobenzene.

reactant | 2,4-Dichlorotoluene | ClC1=C(C=CC(=C1)Cl)C | C7H6Cl2
catalyst | palladium | [Pd] | Pd
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | toluene chlorotoluene | C1(=CC=CC=C1)C.ClC1=C(C=CC=C1)C | InChI=1S/C7H7Cl.C7H8/c1-6-4-2-3-5-7(6)8;1-7-5-3-2-4-6-7/h2-5H,1H3;2-6H,1H3
